US07713994B2
(Z)-4-((5-Bromopyridin-2-ylamino)methylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione
A mixture of (E)-4-(methoxymethylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione (268 mg, 1.0 mmole), dimethylformamide (8 mL), and 5-bromopyridin-2-amine (173 mg, 1.0 mmole) is heated at 125° C. for four hours. The reaction mixture is cooled, diluted with ether, filtered, washed with fresh ether and dried to give a salmon solid, 176 mg, (43%), mp 317-8° C. dec; MS (ES−): m/z 407.0 (M−H).

reactant | (E)-4-(methoxymethylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione | 1.0 mmole, 268 mg | CO\C=C/1\C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C15H12N2O3
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | 5-bromopyridin-2-amine | 1.0 mmole, 173 mg | BrC=1C=CC(=NC1)N | C5H5BrN2
solvent | ether | CCOCC | C4H10O
product | (Z)-4-((5-Bromopyridin-2-ylamino)methylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione | BrC=1C=CC(=NC1)N\C=C\1/C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C19H13BrN4O2
